### PR TITLE
Helpers for Elmo

### PR DESCRIPTION
**Pull request by h0nzZik**
General definitions and lemmas used in Elmo - but not strictly related to Elmo.

### CODE REVIEW

File: Lib/ListExtras.v [hunk 1]
```diff
@@ -1798,3 +1863,246 @@ Definition list_sum_project_right
...
+  match l1 with
+  | [] => []
+  | x::xs =>
+    match l2 with
+    |  [] => []
+    |  y::ys => (f x y) :: zip_with f xs ys
+    end
+  end.
+
+Lemma in_notin_impl_not_eq {A : Type} (x : A) (l1 l2 : list A):
```
Comment (traiansf) [inline Lib/ListExtras.v:1877]: I wonder, since we have this lemma, whether it would be nice to also have a lemma deducing inequality of elements from membership and non-membership to the same list. If so, then we should name them accordingly.

File: VLSM/Equivocation.v [hunk 2]
```diff
@@ -2424,3 +2424,133 @@ Section has_been_sent_irrelevance.
   Qed.
 
 End has_been_sent_irrelevance.
+
+Lemma preloaded_weaken_finite_protocol_trace_from
```
Comment (traiansf) [inline VLSM/Equivocation.v:2428]: I think you can obtain this faster (without induction) by using `VLSM_incl_finite_protocol_trace_from`

File: VLSM/Equivocation.v [hunk 3]
```diff
@@ -2424,3 +2424,133 @@ Section has_been_sent_irrelevance.
...
+    exact H.
+  - simpl.
+    inversion Hfptf. subst. clear Hfptf.
+    apply (@finite_ptrace_extend _ (pre_loaded_with_all_messages_vlsm X)).
+    + auto.
+    + apply (@preloaded_weaken_protocol_transition _ X).
+      exact H3.
+Qed.
+
+Lemma preloaded_weaken_finite_protocol_trace_from_to
```
Comment (traiansf) [inline VLSM/Equivocation.v:2448]: I think you can obtain this faster (without induction) by using VLSM_incl_finite_protocol_trace_from_to

(also, it probably can be derived from the above.

**Review by traiansf — APPROVED** [review]

**Comment by palmskog** [comment]
Closing since we switched to fully use stdpp, which has most of the utility results in this PR in one form or another.
